2150-08-04 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - insulin gtt titrated up to 39, BS in 200s
   24 Hour Events:
   Concern for asthma vs PE on CT.
   Severe GERD hx of [**Last Name (un) 8160**] with dysphagia
   On insulin GTT
   Very difficult to control FS even on gtt.
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 35 units/hour
   Other ICU medications:
   Insulin - Regular - [**2150-8-3**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-4**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 102 (95 - 113) bpm
   BP: 109/62(72) {109/50(72) - 156/94(108)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,483 mL
                                                                  1,756 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,283 mL
                                                                  1,756 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                  1,761 mL
   Respiratory support
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   476 K/uL
   9.5 g/dL
   305 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   136 mEq/L
   30.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
   WBC
   13.0
   Hct
   30.9
   Plt
   476
   Cr
   1.0
   0.8
   Glucose
   436
   305
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
   41 year f with hx of poorly controlled DMII, asthma who presents with
   progressive SOB and CP for 2-3 weeks with associated hypergylcemia, now
   trasnfered to the MICU due to needing an insulin gtt.
   .
   # Hyperglycemia: DM, type II, poorly controlled. BS have been >400 for
   last 2-3 weeks per pt. Multiple BS measurements >500 on the floor since
   admission despite high humalog doses. Concern for hyperosmolar
   hyeprglycemic state since no gap. Evaluated by [**Last Name (un) 294**] today.  This AM
   FS now 150. Able to decrease gtt to 25 units/hr. Consider other causes
   of severe hyperglycemia such as glucagonoma.
   - insulin gtt for now
   - IVF with D5
 NS for now once BS<200. Discuss w/ [**Last Name (un) 294**] if this is
   necessary as she is eating ahd high resistance.
   - monitor lytes
   - hold metformin and Pramlintide
   - appreciate [**Last Name (un) 294**] recs
   - diabetic diet
   .
   # Chest Pain: unclear etiology. Has been ruled out for MI. Pain is
   pleuritic so may represent lung pathology, possible PE vs PNA. PNA less
   likely due to no fever or sputum or WBC. PE possible since pt has sinus
   tach and elevated D-dimer.
   - VQ scan to check for PE, may need MR
   - continue lovenox for now
   - will start abx if pt has temp
   - recheck CXR in AM
   - continue ASA, statin, and ACEI for hx of CAD
   .
   # Asthma: currenly having exacerbation. Recent decrease in peak flow to
   170s. Poor air movement on exam. Hx of two intubations in the past.
   - steriod burst of prednisone 30mg [**Hospital1 **] for 4 days, day 1 =[**2150-8-3**]
   - albuterol Q2H PRN, and Q4H standing
   - ipratropium Q6H
   - continue home advair and zafirlukast
   - monitor peak flows daily
   .
   # GERD/stomach pain: poorly controll sx of GERD and now also having
   dysphagia. Concern for esophageal obstruction/stricture worsening sx,
   or may have gastroparesis due to DMII.
   - continue home PPI
   - GI to evaluate pt for endoscopy once off insulin gtt on floor
   - hold NAIDS while on steriods
   - consider gastric emptying study
   - dysphagic diet for now
   .
   # Sleep Apnea: chronic, uses CPAP at night
   - will continue CPAP at night
   .
   # Spinal stenosis: chronic pain
   - continue home lyrica, valium, amytriptiline, lidocaine patch, and
   hydromorphone (oral only)
   - tylenol PRN
   .
   # HTN - continue home regimen of lisinopril 10 mg
   .
   # HL - continue simvastatin 20 mg
   .
   # Hx  of CVA- residual deficits. Uses walker for ambulation.
   .
   # FEN - regular diabetic diet, mechanical soft.  Received 3L of fluid
   since arrival
   .
   # PPX - patient on lovenox as listed above, PPI, bowel meds for
   constipation
   .
   # FULL CODE, confirmed
   .
   # Dispo - ICU while on insulin gtt
   ICU Care
   Nutrition: Diabetic
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-8-4**] 06:11 AM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now for insulin gtt

2150-08-04 10:01:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted from floor for insulin drip, sugars down to 150, insulin at
   25Units/hour. Urinary retention s/p foley with drainage fo 600cc of
   cloudy urine.
   History obtained from Patient
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 25 units/hour
   Other ICU medications:
   Insulin - Regular - [**2150-8-3**] 06:30 PM
   Other medications:
   pred 30 [**Hospital1 **], colace, Fesulfate, vitamin D, Cacarbonate, ASA 325,
   prilosec, zocor, lisinopril, lidocaine patch, ketoconazole shampoo,
   lovenox 100 s/c [**Hospital1 **], amitryptyline, insulin drip at 25Unit/hr,
   albuterol neb q4h, accolate, advair 250/50.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-4**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 96 (95 - 113) bpm
   BP: 106/64(74) {106/50(72) - 156/94(108)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,483 mL
                                                                  2,197 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,283 mL
                                                                  2,197 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    500 mL
   Urine:
                                                                    350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                  1,697 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : end expiratory)
   Abdominal: Soft, Distended, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   476 K/uL
   305 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   136 mEq/L
   30.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
   WBC
   13.0
   Hct
   30.9
   Plt
   476
   Cr
   1.0
   0.8
   Glucose
   436
   305
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR costophrenic angles blunted bilaterally, large gastric
   gastric bubble
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
   on insulin drip discuss with Diabetes service how to transition back to
   s/c insulin. check lytes q8hr, consider screening for glucanoma
 Pleuritic chest pain left shoulder pain: follow up V/Q scan, LENI's
   negative, contineu on therapeutic lovenox empirically. Will check
   gastric emptying study after d/w GI, probable endoscopy by GI  during
   this admission.
Asthma: check peak flow, steroids x4 days, continue nebs.
 OBSTRUCTIVE SLEEP APNEA (OSA)
   Bipap at night
 Constipation
   bowel regimen
   ICU Care
   Nutrition:
   Comments: po diet, diabetic
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2150-8-4**] 06:11 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-08-05 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2150-8-4**] 10:30 AM
   To Nuclear med for V-Q scan
 NUCLEAR MEDICINE - At [**2150-8-4**] 12:36 PM
   returned from Nuclear med
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 35 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 106 (96 - 119) bpm
   BP: 131/68(81) {92/47(57) - 142/85(93)} mmHg
   RR: 25 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  4,295 mL
                                                                  1,100 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  3,295 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    215 mL
   Urine:
                                                                  1,960 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,335 mL
                                                                    885 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   513 K/uL
   9.3 g/dL
   130 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   31.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
                             [**2150-8-4**]  05:10 PM
                             [**2150-8-5**]  05:28 AM
   WBC
   13.0
   12.1
   Hct
   30.9
   31.0
   Plt
   476
   513
   Cr
   1.0
   0.8
   0.7
   Glucose
   436
   305
   349
   130
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ASTHMA
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
   41 year f with hx of poorly controlled DMII, asthma who presents with
   progressive SOB and CP for 2-3 weeks with associated hypergylcemia, now
   trasnfered to the MICU due to needing an insulin gtt.
   .
   # Hyperglycemia: DM, type II, poorly controlled. BS have been >400 for
   last 2-3 weeks per pt. Multiple BS measurements >500 on the floor since
   admission despite high humalog doses. Concern for hyperosmolar
   hyeprglycemic state since no gap. Evaluated by [**Last Name (un) 294**] today.  Insulin
   gtt at 40U/hr in addition to receiving 80U of glargine. This AM FS now
   150. Consider other causes of severe hyperglycemia such as glucagonoma
   though pt on steroids right now for asthma exacerbation.
   - insulin gtt for now and until off steroids
   - monitor lytes
   - hold metformin and Pramlintide
   - appreciate [**Last Name (un) 294**] recs
   - lantus 80U [**Hospital1 **]
   - diabetic diet
   .
   # Chest Pain: unclear etiology. Has been ruled out for MI. Pain is
   pleuritic so may represent lung pathology, possible PE vs PNA. PNA less
   likely due to no fever or sputum or WBC. PE possible since pt has sinus
   tach and elevated D-dimer. Unable to complete VQ scan.
   - continue lovenox for now
   - will start abx if pt has temp
   - recheck CXR in AM
   - continue ASA, statin, and ACEI for hx of CAD
   - consider ECHO for further evaluation though evidence of pulm
   hypertension on prior echo
   .
   # Asthma: currenly having exacerbation. Recent decrease in peak flow to
   170s. Poor air movement on exam. Hx of two intubations in the past.
   - steriod burst of prednisone 30mg [**Hospital1 **] for 4 days, day 1 =[**2150-8-3**]; today
   day 3
   - albuterol Q2H PRN, and Q4H standing
   - ipratropium Q6H
   - continue home advair and zafirlukast
   - monitor peak flows daily
   .
   # GERD/stomach pain: poorly controll sx of GERD and now also having
   dysphagia. Concern for esophageal obstruction/stricture worsening sx,
   or may have gastroparesis due to DMII. Seen by GI. Would not do EGD at
   this time.
   - continue home PPI
   - GI recs
   - barium swallow for further evaluation of dysphagia
   - hold NAIDS while on steriods
   - consider gastric emptying study
   - dysphagic diet for now
   .
   # Sleep Apnea: chronic, uses CPAP at night
   - will continue CPAP at night
   .
   # Spinal stenosis: chronic pain
   - continue home lyrica, valium, amytriptiline, lidocaine patch, and
   hydromorphone (oral only)
   - tylenol PRN
   .
   # HTN - continue home regimen of lisinopril 10 mg
   .
   # HL - continue simvastatin 20 mg
   .
   # Hx  of CVA- residual deficits. Uses walker for ambulation.
   .
   # FEN - regular diabetic diet, mechanical soft
   .
   # PPX - patient on lovenox as listed above, PPI, bowel meds for
   constipation
   .
   # FULL CODE: confirmed
   .
   # Dispo - ICU while on insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2150-8-4**] 06:11 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2150-08-05 12:09:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia, shortness of breath, pleuritic chest
   pain.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   V/Q scan incomplete, continues on insulin drip, sugars continue to be
   elevated.
   History obtained from Patient
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 25 units/hour
   Other ICU medications:
   Other medications:
   ASA 325, lovenox 100 [**Hospital1 **], omeprazole, zocor, lisinopril, lidocaine
   patch, ketoconazole shampoo, amitryptlyine, atrovent and albuterol
   nebs, accolate, advair, lactulose.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-5**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 108 (96 - 119) bpm
   BP: 136/69(84) {92/47(57) - 142/85(96)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  4,295 mL
                                                                  1,190 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  3,295 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    955 mL
   Urine:
                                                                  1,960 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,335 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   513 K/uL
   130 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   31.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
                             [**2150-8-4**]  05:10 PM
                             [**2150-8-5**]  05:28 AM
   WBC
   13.0
   12.1
   Hct
   30.9
   31.0
   Plt
   476
   513
   Cr
   1.0
   0.8
   0.7
   Glucose
   436
   305
   349
   130
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ASTHMA:
   prednisone x1more day then stop, continue inhalers q4hour standing
 INEFFECTIVE COPING:
   will consult social worker, patient refusing exam today, refusing
   medication changes.
 DIABETES MELLITUS (DM), TYPE II
   continue insulin drip, and glargine.
 Pleuritic chest pain: incomplete V/Q scan, will attempt to complete
   study when patient agrees, although clinical suspicion is low
 Dysphagia: follow up barium swallow result
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2150-8-4**] 06:11 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2150-08-06 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Agitated throughout the day- thought we may have two
   code purples.
   Psych called twice as pt threatened to leave AMA. Agreed to stay though
   verbally abusive to staff.
   - Friend is not husband though claimed to be day prior. Unclear
   relationship to pt.
   - Pt refused to eat anything other than ice cream and ginger ale.
   - Transitioned off drip and started on insulin sliding scale.
   - Underwent barium swallow. No gross abnormalities. ? decreased gastric
   emptying
   - GI: no urgent need to scope
   24 Hour Events:
 FLUOROSCOPY - At [**2150-8-5**] 10:15 AM
   barrium swallow
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-6**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (96 - 108) bpm
   BP: 115/64(76) {96/30(48) - 146/86(99)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,671 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  1,431 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    740 mL
   Urine:
                                                                  1,975 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   423 K/uL
   9.4 g/dL
   183 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   31.1 %
   16.7 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
                             [**2150-8-4**]  05:10 PM
                             [**2150-8-5**]  05:28 AM
                             [**2150-8-6**]  03:44 AM
   WBC
   13.0
   12.1
   16.7
   Hct
   30.9
   31.0
   31.1
   Plt
   476
   513
   423
   Cr
   1.0
   0.8
   0.7
   0.7
   Glucose
   436
   305
   349
   130
   183
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 ASTHMA
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
   41 year f with hx of poorly controlled DMII, asthma who presents with
   progressive SOB and CP for 2-3 weeks with associated hypergylcemia, now
   transferred to the MICU due to needing an insulin gtt.
   .
   # Hyperglycemia: DM, type II, poorly controlled. BS have been >400 for
   last 2-3 weeks per pt. Multiple BS measurements >500 on the floor since
   admission despite high humalog doses. Concern for hyperosmolar
   hyeprglycemic state since no gap. Evaluated by [**Last Name (un) 294**] today.  Insulin
   gtt at 40U/hr in addition to receiving 80U of glargine. This AM FS now
   150. Consider other causes of severe hyperglycemia such as glucagonoma
   though pt on steroids right now for asthma exacerbation.
   - insulin SSI and lantus
   - stopping steroids
   - monitor lytes
   - hold metformin and Pramlintide
   - appreciate [**Last Name (un) 294**] recs
   - lantus 80U [**Hospital1 **]
   - diabetic diet
   - f/u glucagon level
   # Difficulty coping: was verbally abusive to staff. Needed psych to be
   called twice yesterday to bedside, pt deescalated without further
   intervention. Pt had passive suicidal statements yesterday.
   - social work c/s
   - psych following
   - not able to leave AMA if expressing thoughts of self harm
   .
   # Chest Pain: unclear etiology. Has been ruled out for MI. Pain is
   pleuritic so may represent lung pathology, possible PE vs PNA. PNA less
   likely due to no fever or sputum or WBC. PE possible since pt has sinus
   tach and elevated D-dimer. Unable to complete VQ scan, however majority
   of exam was complete and no PE seen. Lovenox was stopped on [**2150-8-5**].
   Repeat CXR with no acute abnl.
   - will start abx if pt has temp
   - continue ASA, statin, and ACEI for hx of CAD
   .
   # Asthma: currently having exacerbation. Recent decrease in peak flow
   to 170s per pt before admission. Poor air movement on exam. Hx of two
   intubations in the past.
   - steriod burst for 4 days, now compete
   - albuterol Q3H PRN nebs, and Q6H inhaler
   - ipratropium Q6H
   - continue home advair and zafirlukast
   - monitor peak flows
   .
   # GERD/stomach pain: poorly controlled sx of GERD and now also having
   dysphagia. Concern for esophageal obstruction/stricture worsening sx,
   or may have gastroparesis due to DMII. Seen by GI. Would not do EGD
   while in ICU. Barium swallow showed some decreasd gastric emptying.
   - continue home PPI
   - GI recs
   - hold NSAIDs while on steriods
   - consider gastric emptying study
   - dysphagic diet for now
   .
   # Sleep Apnea: chronic, uses CPAP at night
   - will continue CPAP at night
   # Constipation:
   - hold iron
   - bisacodyl PR
   - colace and senna
   # Spinal stenosis: chronic pain
   - continue home lyrica, valium, amytriptiline, lidocaine patch, and
   hydromorphone (oral only)
   - tylenol PRN
   .
   # HTN - continue home regimen of lisinopril 10 mg
   .
   # HL - continue simvastatin 20 mg
   .
   # Hx  of CVA- residual deficits. Uses walker for ambulation.
   .
   # FEN - regular diabetic diet, mechanical soft
   .
   # PPX - patient on lovenox as listed above, PPI, bowel meds for
   constipation
   .
   # FULL CODE: confirmed
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-8-3**] 05:45 PM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor today since off insulin gtt

2150-08-06 11:32:00 Physician Attending Progress Note
Chief Complaint: severe hyperglycemia requiring insulin drip
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Agitated trying to leave the hospital, pschiatry called twice, upset
   demanding ice cream. Off insulin drip. Barium swallow with
   gastroparesis. GI reassessed and determined no need for endoscopy
   currently. Discontinued lovenox as V/Q although limited read as
   negative.
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-6**] 08:00 AM
   Omeprazole (Prilosec) - [**2150-8-6**] 08:00 AM
   Other medications:
   tylenol 1g po q6, vitamin D, tums [**Hospital1 **], Aspirin, lyrica, zocor,
   lisinopril, lidocaine patch, ketoconazole, amitryptline, ipratropium,
   zafirlucast, colace, lactulose, metformin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-6**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 110 (96 - 110) bpm
   BP: 145/86(101) {96/30(48) - 146/86(101)} mmHg
   RR: 22 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,671 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  1,431 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    940 mL
   Urine:
                                                                  1,975 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy but regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : few)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   423 K/uL
   183 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   31.1 %
   16.7 K/uL
        [image002.jpg]
                             [**2150-8-3**]  06:22 PM
                             [**2150-8-4**]  02:04 AM
                             [**2150-8-4**]  05:10 PM
                             [**2150-8-5**]  05:28 AM
                             [**2150-8-6**]  03:44 AM
   WBC
   13.0
   12.1
   16.7
   Hct
   30.9
   31.0
   31.1
   Plt
   476
   513
   423
   Cr
   1.0
   0.8
   0.7
   0.7
   Glucose
   436
   305
   349
   130
   183
   Other labs: PT / PTT / INR:11.7/33.7/1.0, Lactic Acid:3.5 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
   continue bowel regimen, holding iron tabs
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   s/p Nissen, on PPI
 Dyspagia/epigastric dysfucntion:
   evidence of gastroparesis on barium swallow plan for EGD after she
   transfers to the floor, also will get gastric emptying study.
 ASTHMA:
   Continue home inhalers, completed prednisone today.
Pleuritic chest pain:
   no evidence for PE on limited V/Q scan, LENI's negative off lovenox.
 INEFFECTIVE COPING: waxing and waining, social work and psych
   following.
 DIABETES MELLITUS (DM), TYPE II
   transitioned to s/c insulin, glucagon level to be sent, off prednisone
   today.
 OBSTRUCTIVE SLEEP APNEA (OSA): continue CPAP at night.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2150-8-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes